US07524825B2
Step 1. 5-tert-Butoxycarbonylamino-4-chloro-7-(2′-methyl-2′,3′,5′-tris-O-acetyl-β-D-ribofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine
To 4-Chloro-7-(2′-methyl-2′,3′,5′-tris-O-acetyl-β-D-ribofuranosyl)-5-nitro-7H-pyrrolo[2,3-d]pyrimidine in DMF in a round bottom flask. 1.2 eq. of di-tert-butyl dicarbonate and 0.1 eq. Pd/C (10%) are added. Hydrogen in a balloon is attached to the flask and 1 is hydrogenated until TLC indicates completion of reaction. The reaction mixture is filtered to remove the catalyst and the filtrate is evaporated. Column chromatography of the crude product yields.

reactant | 4-Chloro-7-(2′-methyl-2′,3′,5′-tris-O-acetyl-β-D-ribofuranosyl)-5-nitro-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2[N+](=O)[O-])[C@H]2[C@H](OC(C)=O)[C@H](OC(CC)=O)[C@H](O2)COC(C)=O | C18H19ClN4O9
reactant | di-tert-butyl dicarbonate | 1.2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Hydrogen | [H][H] | H2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd/C | [Pd] | Pd
product | 5-tert-Butoxycarbonylamino-4-chloro-7-(2′-methyl-2′,3′,5′-tris-O-acetyl-β-D-ribofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | C(C)(C)(C)OC(=O)NC1=CN(C=2N=CN=C(C21)Cl)[C@H]2[C@H](OC(C)=O)[C@H](OC(CC)=O)[C@H](O2)COC(C)=O | C23H29ClN4O9
